Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male s/p pancreas transplant ___ who presents with 
c/o nausea, vomiting and abdominal pain c/w gastroparesis 
exacerbations. Blood sugars are consistently less than 140 and 
he has no other constitutional symptoms. He initially presented 
to OSH and was transferred to ___ for further evaluation. 
 
Past Medical History:
PMH: hepatitis C, IDDM, gastroparesis, peripheral neuropathy,
glaucoma, seizures

PSH: Right knee surgery

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 98.2, 92, 142/94, 18, 98%RA
Gen: A+Ox3, NAD, multiple tattoos, vomiting has resolved
Card: Reg rhythm, tachy,
Abd: Soft, distended and tender but no abdominal pain
Extr: MAE, ___ bilateral lower extremities
 
Pertinent Results:
On Admission: ___
WBC-5.0 RBC-2.88* Hgb-9.3* Hct-27.9* MCV-97 MCH-32.4* MCHC-33.4 
RDW-16.9* Plt ___ PTT-26.1 ___
Glucose-109* UreaN-17 Creat-0.7 Na-140 K-4.4 Cl-107 HCO3-25 
AnGap-12
ALT-7 AST-12 AlkPhos-63 TotBili-0.3 Lipase-19
Calcium-8.4 Phos-4.1 Mg-1.5*
At Discharge: ___ 
WBC-2.0*# RBC-3.05* Hgb-9.7* Hct-29.5* MCV-97 MCH-31.7 MCHC-32.8 
RDW-16.5* Plt ___
Glucose-83 UreaN-11 Creat-0.9 Na-140 K-4.0 Cl-104 HCO3-28 
AnGap-12
Amylase-45 Lipase-19
Calcium-8.9 Phos-5.2* Mg-1.5*
tacroFK-10.___ y/o male who was admitted with recurring gastroparesis 
symptoms, 2 months s/p pancreas transplant.
The patient was made NPO, hydrated and given IV reglan.
His abdomen remained soft, non-distended with + bowel sounds. 
His nausea subsided and his diet was advanced to regular with 
good tolerance although he did have sompaints intermittently of 
abdominal pain.
He was scheduled to see Dr ___ GI ___ this ___, 
however he came by to see patient while in house. His 
recommendations include dropping his Reglan to TID as tolerated, 
and returning to QID if needed. Per his note it appears he is 
trying to wean patient down on the Reglan. He will continue to 
follow with Dr ___ as an outpatient.
 
Medications on Admission:
 tacro ___, cellcept 500'''', valcyte 900', bactrim ss', 
nystatin STOPPED, prilosec 20'', diazepam 10'''', ASA 81', 
Dronabinol 10''', duloxetine 90', gabapentin 600''', reglan 
20'''', topiramate 25', fludrocortisone 0.1'  

 
Discharge Medications:
1. Valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day).  
5. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
7. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day).  
10. Tacrolimus 1 mg Capsule Sig: Two (2) Capsule PO twice a day. 
 
11. Tacrolimus 5 mg Capsule Sig: One (1) Capsule PO twice a day. 
 
12. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
13. Reglan 10 mg Tablet Sig: Two (2) Tablet PO four times a day. 
 
14. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
15. Diazepam 10 mg Tablet Sig: One (1) Tablet PO four times a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p pancreas transplant 2 months ago
gastroparesis exacerbation

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting more than your usual, increased 
abdominal pain, diarrhea or other concerning symptoms.
Check your blood sugar and report any value greater than 200
Continue all home medications and immunosuppresives. Your 
Prograf dose has been changed to 7 mg BID
Lab draws per transplant clinic recommendations
 
Followup Instructions:
___